US05877165
A boronated porphyrin of the present invention, NiTCP, was synthesized using Lindsey's cyclization method as shown in Reaction Scheme 1. Pyrrole-3,4-diacetic acid dimethyl ester (prepared according to Chiusoli et al., 1989) in the amount of 79 mg and 3-o-carboranylmethyloxybenzaldehyde (prepared according to Miura et al., 1990) in the amount of 91 mg were dissolved in 20 ml of CH2Cl2 and then deoxygenated with nitrogen (N2) for 20 minutes. 15 μl of BF3.Et2O was added and then allowed to stir at 25° C. under N2 for approximately 1.5 hours to form an intermediate porphyrinogen.

reactant | boronated porphyrin | [B]1[B][B]C([B]1)[B]B(C2[B][B][B][B]2)C(=O)OCC(C3=C(C4=CC5=C(C(=C(N5)C=C6C(=C(C(=N6)C=C7C(=C(C(=N7)C=C3N4)C)CCC(=O)O)CCC(=O)O)C)C)C(COC(=O)B([B]C8[B][B][B][B]8)C9[B][B][B][B]9)OC(=O)B([B]C1[B][B][B][B]1)C1[B][B][B][B]1)C)OC(=O)B([B]C1[B][B][B][B]1)C1[B][B][B][B]1 | C46H42B40N4O12
reactant | Pyrrole-3,4-diacetic acid dimethyl ester | COC(CC1=CNC=C1CC(=O)OC)=O | C10H13NO4
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | porphyrinogen | C1C2=CC=C(N2)CC3=CC=C(N3)CC4=CC=C(N4)CC5=CC=C1N5 | C20H20N4
